US04737511
3-Ethyl-4-(4-fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-2H-pyrrol-2-one
Lithium diisopropylamide is generated from diisopropylamine (122 mL, 0.87 mol) and n-butyllithium (2.5 M in hexane, 348 mL, 0.87 mol) in tetrahydrofuran (1.5 L) under a nitrogen atmosphere at -60° C., and 4-(4-fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-2H-pyrrol-2-one (235 g, 0.83 mol) is added to this mixture. The mixture is stirred for 30 minutes at -50° C., 1 hr at 0° C., and then re-cooled to -60° C. Ethyl iodide (73 mL, 0.91 mol) is added, and the reaction is allowed to warm slowly to 25° C., and stirred at this temperature for 18 hr. The mixture is poured into 1.5 L of 4 N HCl and stirred for 1 hr. The mixture is then extracted with methylene chloride, and the extracts are dried with magnesium sulfate and evaporated. Recrystallization of the residue from ethanol followed by drying under vacuum at 60° C. for 18 hr gives the title compound.

reactant | Lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | diisopropylamine | 0.87 mol, 122 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 0.87 mol, 2.5 M, 348 mL | C(CCC)[Li]
reactant | 4-(4-fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-2H-pyrrol-2-one | 0.83 mol, 235 g | FC1=CC=C(C=C1)C1=CC(N(C1)C1=CC=C(C=C1)OC)=O | C17H14FNO2
reactant | Ethyl iodide | 0.91 mol, 73 mL | C(C)I | C2H5I
reactant | HCl | 4 N, 1.5 L | Cl | ClH
solvent | tetrahydrofuran | 1.5 L | O1CCCC1 | C4H8O
product | 3-Ethyl-4-(4-fluorophenyl)-1,5-dihydro-1-(4-methoxyphenyl)-2H-pyrrol-2-one | C(C)C=1C(N(CC1C1=CC=C(C=C1)F)C1=CC=C(C=C1)OC)=O | C19H18FNO2
